US06284757B1
(7S,8aS)-7-Hydroxymethyl-2-(5-fluoropyrimidin-2-yl )-1,2,3,4,6,7,8, 8a -octahydro-pyrrolo[1,2-a]pyrazine
A mixture of 1.38 g (8.84 mmol) of (7S,8aS)-7-hydroxymethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine, 1.30 g (9.87 mmol) of 2-chloro-5-fluoropyrimidine (Dunaiskis, A. et al., Org. Prep. Proc. Int., 1995, 27, 600-602), and 2.85 g (26.9 mmol) of sodium carbonate and 90 mL of water was heated at 95° C. for 16 hours. The solution was cooled and extracted with chloroform (2×), the combined organic phase was dried (magnesium sulfate), filtered and evaporated. Purification by flash silica gel chromatography with 9:1 chloroform:methanol gave 0.97 g (43%) of the title compound. Mp 123-124° C. m/z (MH+) 253. 13C NMR (CDCl3): δ 30.9, 37.1, 43.8, 48.8, 51.3, 57.5, 62.6, 67.2, 144.9, 145.2, 149.9, 153.2, 158.8.

reactant | (7S,8aS)-7-hydroxymethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 8.84 mmol, 1.38 g | OC[C@H]1C[C@@H]2N(CCNC2)C1 | C8H16N2O
reactant | 2-chloro-5-fluoropyrimidine | 9.87 mmol, 1.30 g | ClC1=NC=C(C=N1)F | C4H2ClFN2
reactant | sodium carbonate | 26.9 mmol, 2.85 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 90 mL | O | H2O
product | (7S,8aS)-7-Hydroxymethyl-2-(5-fluoropyrimidin-2-yl )-1,2,3,4,6,7,8, 8a -octahydro-pyrrolo[1,2-a]pyrazine | 0.97 g, 43% | OC[C@H]1C[C@@H]2N(CCN(C2)C2=NC=C(C=N2)F)C1 | C12H17FN4O
